US03983247
118 g. of 1,6-hexanediol are introduced into 800 ml. of absolute tetrahydrofuran and, while stirring well, treated portionwise over a period of 4 hours with 30 g. of sodium hydride. 60 ml. of hexamethylphosphoric acid triamide are then added, the mixture is heated to reflux and treated over a period of 12 hours with a solution of 149 g. of propargyl bromide and 200 ml. of tetrahydrofuran. The cooled mixture is poured on to ice-water and extracted three times with ether. The ether solutions are washed with water and sodium chloride solution, dried over sodium sulphate and evaporated. By distillation or chromatography there is obtained pure 6-(2-propynyloxy)-1-hexanol; boiling point (bulb-tube) = 75°C/0.015 mmHg; nD25 = 1.4560.

reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
reactant | sodium hydride | [H-].[Na+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 6-(2-propynyloxy)-1-hexanol | C(C#C)OCCCCCCO | C9H16O2
